US08669234B2
4-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-piperidine-1-carboxylic acid benzyl ester (6.8 g, 14.9 mmol) in DMF (115 mL) was treated with NaH (60% dispersion in mineral oil, 655 mg, 16.4 mmol) in one portion. After 5 min, the mixture was treated with SEMCl (2.75 mL, 15.7 mmol) in 0.1 mL portions over 10 min. The reaction was stirred for 3 hours and diluted with saturated NH4Cl solution (50 mL) and EtOAc (100 mL). The organic layer was washed with H2O (3 50 mL) and brine (50 mL). The solution was dried over MgSO4 and subjected to a 120 g SiO2 COMBIFLASH column (0-100% EtOAc-hexanes followed by 0-20% MeOH-EtOAc gradient) to afford 4-[2-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-piperidine-1-carboxylic acid benzyl ester (2.8 g, 32%): MS (ESI) m/z 585 [M+H]+.

reactant | 4-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-piperidine-1-carboxylic acid benzyl ester | 14.9 mmol, 6.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C25H34N4O4
reactant | NaH | 16.4 mmol, 655 mg | [H-].[Na+]
reactant | SEMCl | 15.7 mmol, 2.75 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 115 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-[2-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-piperidine-1-carboxylic acid benzyl ester | 2.8 g, 32% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1N(C(=NC1)C1N(CCC1)C(=O)OC(C)(C)C)COCC[Si](C)(C)C | C31H48N4O5Si
